US04122265
A suspension of 30.0 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid methylamide in 380 ml. of dimethylformamide is treated under an atmosphere of argon with 16.8 g. of potassium tert. butylate and the mixture is stirred in an ice-bath for 15 minutes. At 10°-15° C. there is then added a solution of 44.5 g. of (3-bromopropyl) [tetrahydropyranyl-(2)] ether in 30 ml. of dimethylformamide, the mixture is then stirred at 20°-25° C. for 30 minutes and subsequently heated to 100° C. for 30 minutes. After cooling, the solvent is removed by evaporation under reduced pressure and the residue partitioned between water and methylene chloride. The organic phase is washed with water, dried over sodium sulfate and evaporated to dryness. The residual oily tetrahydropyranyl derivative is dissolved in a mixture of 120 ml. of ethanol, 80 ml. of water and 20 ml. of concentrated hydrochloric acid and the solution is boiled at reflux for 3 hours. The mixture is then evaporated to dryness under reduced pressure and the residue dissolved in methylene chloride. The organic solution is washed with a saturated aqueous sodium chloride solution and dried over sodium sulfate. After concentration, the residue is purified by chromatography on 500 g. of silica gel using methylene chloride/ethyl acetate (2:1) for the elution, and there is obtained 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-hydroxypropyl)methylamide having a melting point of 85°-88° C. which can be used in the next step without further purification. An analytical sample is obtained by recrystallization from methylene chloride/pentane and has a melting point of 92°-94° C.

reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid methylamide | CNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C17H15ClN2O
reactant | ether | CCOCC | C4H10O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-hydroxypropyl)methylamide | OCCCN(C(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)C | C20H21ClN2O2
